US07411092B2
A mixture of 5.12 g (0.070 mol) of dimethylethylamine, 14.2 g (0.070 mol) of 1-bromo-2-(methoxyethoxy)ethane and 10.2 g of acetonitrile was stirred at 80° C. for 24 hours for reaction thereof. After completion of the reaction, the resulted reaction mixture was concentrated, and the residue was dried under reduced pressure to obtain 18.4 g (0.070 mol) of N,N-dimethyl-N-ethyl-N-methoxyethoxyethylammonium bromide.

reactant | dimethylethylamine | 0.070 mol, 5.12 g | CN(CC)C | C4H11N
reactant | 1-bromo-2-(methoxyethoxy)ethane | 0.070 mol, 14.2 g | BrCCOCCOC | C5H11BrO2
solvent | acetonitrile | 10.2 g | C(C)#N | C2H3N
product | N,N-dimethyl-N-ethyl-N-methoxyethoxyethylammonium bromide | 0.070 mol, 18.4 g | [Br-].C[N+](CCOCCOC)(CC)C | InChI=1S/C9H22NO2.BrH/c1-5-10(2,3)6-7-12-9-8-11-4;/h5-9H2,1-4H3;1H/q+1;/p-1
